US05221675
Step E: 3-Methyl-1-phenyl-1,3,8-triazaspiro[4,5]decane-2,4-dione hydrochloride
To a solution of 8-benzyl-3-methyl-1-phenyl-1,3,8-triazaspiro[4,5]decane-2,4-dione (470 mg, 1.3 mmol), from Step D, in methanol (100 mL) were added concentrated aqueous hydrochloric acid (0.12 mL, 1.4 mmol) and wet 20% palladium on carbon (0.47 g). The reaction vessel was pressurized with hydrogen (4 atmospheres) and shaken on a Parr apparatus at ambient temperature for 2 hours. The reaction mixture was then filtered sequentially through a paper filter and through a PTFE (polytetrafluoroethylene) filter membrane (0.45μ), rinsing with methanol. The filtrate was concentrated under reduced pressure and then the residue was dried to give 0.34 g (89% yield) of the title compound as a white solid, m.p.>330° C. (dec); MS (DCl/NH3) M/Z: 260 (M+H)+, 277 (M+NH4)+ ; 300 MHz 1H NMR (CDCl3) δ2.02 (td, J=5, 14 Hz, 2H), 2.31 (d, J=15 Hz, 2H), 3.08 (s, 3H), 3.34-3.43 (m, 2H), 3.72 (td, J=3, 12 Hz, 2H), 7.29-7.35 (m, 2H), 7.49-7.58 (m, 3H).

reactant | 8-benzyl-3-methyl-1-phenyl-1,3,8-triazaspiro[4,5]decane-2,4-dione | 1.3 mmol, 470 mg | C(C1=CC=CC=C1)N1CCC2(C(N(C(N2C2=CC=CC=C2)=O)C)=O)CC1 | C21H23N3O2
reactant | hydrochloric acid | 1.4 mmol, 0.12 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on carbon | 0.47 g | [Pd] | Pd
product | 3-Methyl-1-phenyl-1,3,8-triazaspiro[4,5]decane-2,4-dione hydrochloride | 0.34 g, 89% yield | Cl.CN1C(N(C2(C1=O)CCNCC2)C2=CC=CC=C2)=O | InChI=1S/C14H17N3O2.ClH/c1-16-12(18)14(7-9-15-10-8-14)17(13(16)19)11-5-3-2-4-6-11;/h2-6,15H,7-10H2,1H3;1H
